US04420615
A. N,N-Diisopropyl-N'-(3-cyano-4,6-dimethyl-2-pyridyl)-1,2-diaminoethane.
A mixture of N,N-diisopropyl-1,2-diaminoethane (10.8 g, 75 mmol) and 2-chloro-3-cyano-4,6-dimethylpyridine (12.5 gm, 75 mmol) in triethylamine (20 ml) is heated at 90° C. for 17 hours. The excess triethylamine is removed under vacuum and the residue is dissolved in chloroform, washed with water, dried over anhydrous sodium sulfate and evaporated to give essentially pure product (20.8 g) which is used in subsequent reactions. The title A product can be crystallized from methanol to give 13.6 g; m.p. 65°-68° C.

reactant | N,N-diisopropyl-1,2-diaminoethane | 75 mmol, 10.8 g | C(C)(C)N(CCN)C(C)C | C8H20N2
reactant | 2-chloro-3-cyano-4,6-dimethylpyridine | 75 mmol, 12.5 gm | ClC1=NC(=CC(=C1C#N)C)C | C8H7ClN2
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | N,N-Diisopropyl-N'-(3-cyano-4,6-dimethyl-2-pyridyl)-1,2-diaminoethane | 20.8 g | C(C)(C)N(CCNC1=NC(=CC(=C1C#N)C)C)C(C)C | C16H26N4
